US06303347B1
In the same manner as described in Example 2-(5), L-serine benzyl ester (0.212 g, 1.08 mmol) was acylated with (R)-3-tetradecanoyloxytetradecanoic acid (0.541 g, 1.19 mmol) in the presence of EDC·MeI (0.353 g, 1.19 mmol) to give 0.642 g (94%) of N-[(R)-3-tetradecanoyloxytetradecanoyl]-L-serine benzyl ester as a waxy solid: mp 56-61° C.; 1H NMR (CDCl3) δ 0.88 (t, 6H, J=7 Hz), 1.1-1.7 (m, 42H), 2.29 (t, 2H, J=7.5 Hz), 2.50 (m, 2H), 3.87 (br t, 1H), 3.95 (m, 2H), 4.65 (m, 1H), 5.1-5.25 (m, 3H), 6.69 (d, 1H, J=7 Hz), 7.34 (br s, 5H).

reactant | L-serine benzyl ester | 1.08 mmol, 0.212 g | C(C1=CC=CC=C1)OC([C@@H](N)CO)=O | C10H13NO3
reactant | (R)-3-tetradecanoyloxytetradecanoic acid | 1.19 mmol, 0.541 g | C(CCCCCCCCCCCCC)(=O)O[C@@H](CC(=O)O)CCCCCCCCCCC | C28H54O4
reactant | EDC·MeI | 1.19 mmol, 0.353 g | C(CCl)Cl.CI
product | N-[(R)-3-tetradecanoyloxytetradecanoyl]-L-serine benzyl ester | 0.642 g, 94% | C(C1=CC=CC=C1)OC([C@@H](NC(C[C@@H](CCCCCCCCCCC)OC(CCCCCCCCCCCCC)=O)=O)CO)=O | C38H65NO6
